US06410584B1
Methyl 4-nitro-3-(2-oxopentyl)benzoate (5.42 g) is dissolved in a mixed solvent of tetrahydrofuran (20 ml) and methanol (20 ml), to which is added a suspension of sodium hydrosulfite (52.2 g) in water (60 ml). After having been refluxed for 2 hours, this is subjected to liquid-liquid separation by adding ethyl acetate (300 ml) and water (200 ml) thereto. The organic layer is washed with a saline solution, dried and concentrated. The resulting residue is purified through silica gel column chromatography to obtain 5-(methoxycarbonyl)-2-propylindole (3.16 g).

reactant | Methyl 4-nitro-3-(2-oxopentyl)benzoate | 5.42 g | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)CC(CCC)=O | C13H15NO5
reactant | sodium hydrosulfite | 52.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 5-(methoxycarbonyl)-2-propylindole | 3.16 g | COC(=O)C=1C=C2C=C(NC2=CC1)CCC | C13H15NO2
